US06498159B1
4-(3-Chloro-4-methoxybenzyl)amino-6-cyano-1-(4-cyanopiperidino)phthalazine Hydrochloride
A mixture of 1.2 g of the resulting 4-piperidinecarbonitrile hydrochloride, 1.0 g 1-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine, 1.8 g diisopropylethylamine, and 10 ml 1-methyl-2-pyrrolidone was stirred at 170° C. for 2 hr and 30 min. After cooling, ethyl acetate was added to the reaction solution which was then washed with water and brine. After it was dried over anhydrous sodium sulfate, the solvent was evaporated and the resulting residue was purified by silica gel column chromatography. The resulting free compound was dissolved in ethyl acetate, then a solution of 4 N hydrochloric acid/ethyl acetate was added thereto, and the resulting crystals were collected by filtration to give 880 mg of the title compound as a yellow powder.

reactant | 4-piperidinecarbonitrile hydrochloride | 1.2 g | Cl.N1CCC(CC1)C#N
reactant | 1-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine | 1.0 g | ClC1=NN=C(C2=CC(=CC=C12)C#N)NCC1=CC(=C(C=C1)OC)Cl | C17H12Cl2N4O
reactant | diisopropylethylamine | 1.8 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-pyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-Chloro-4-methoxybenzyl)amino-6-cyano-1-(4-cyanopiperidino)phthalazine Hydrochloride | 880 mg | Cl.ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C#N)N2CCC(CC2)C#N)C=CC1OC | InChI=1S/C23H21ClN6O.ClH/c1-31-21-5-3-17(11-20(21)24)14-27-22-19-10-16(13-26)2-4-18(19)23(29-28-22)30-8-6-15(12-25)7-9-30;/h2-5,10-11,15H,6-9,14H2,1H3,(H,27,28);1H
